US08372845B2
3-[3-(2-Ethoxycarbonyl-ethyl)-ureido]-benzoic acid
A solution of 3-amino benzoic acid (5.0 g, 36.5 mmol) in THF (250 ml)/DCM (250 ml) was cooled to 0° C. and treated with triphosgene (3.79 g, 12.76 mmol) followed by TEA (12.70 ml, 91 mmol). After 5 min, a suspension of beta-alanine ethyl ester hydrochloride (11.20 g, 72.9 mmol) and TEA (12.70 ml, 91.00 mmol) in THF (10 ml)/DCM (10 ml) were added and the resulting mixture was allowed to warm to RT and stirred overnight. The reaction mixture was diluted with DCM (100 ml) and the pH was adjusted to 8 by addition of sat. aq. NaHCO3. The mixture was extracted with water (2×250 ml). The combined aqueous extracts were acidified to pH 1 by addition of 2N HCl, extracted with DCM and the combined organic portions were washed with brine, dried over MgSO4 and concentrated in vacuo to afford the title product as an off-white solid; LC-MS Rt 0.84 mins; 281.2 [M+H]+, Method 2minLC_v003.

reactant | 3-amino benzoic acid | 36.5 mmol, 5.0 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | triphosgene | 12.76 mmol, 3.79 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | beta-alanine ethyl ester hydrochloride | 72.9 mmol, 11.20 g | Cl.C(C)OC(CCN)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-(2-Ethoxycarbonyl-ethyl)-ureido]-benzoic acid | C(C)OC(=O)CCNC(NC=1C=C(C(=O)O)C=CC1)=O | C13H16N2O5
